US07582761B2
(a) Trifluoromethanesulfonic acid isoquinolin-5-yl ester
5-Hydroxyisoquinoline (278 mg, 1.92 mmol, Aldrich) was treated with sodium hydride (60 mg, 2.5 mmol, Aldrich) and N-phenyltrifluoromethanesulfonimide (765 mg, 2.14 mmol, Aldrich) under the conditions of Example 132a to give the title compound as an amorphous solid. MS (ESI, pos. ion) m/z: 278 (M+1).

reactant | 5-Hydroxyisoquinoline | 1.92 mmol, 278 mg | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | sodium hydride | 2.5 mmol, 60 mg | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 2.14 mmol, 765 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | Trifluoromethanesulfonic acid isoquinolin-5-yl ester | C1=NC=CC2=C(C=CC=C12)OS(=O)(=O)C(F)(F)F | C10H6F3NO3S
